US07816522B2
(36f) 2-(3-{(3,4-dimethoxyphenyl)-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]methyl}-5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl)benzoic acid
After adding 16.3 mg of sodium cyanotrihydroborate and 0.0074 ml of acetic acid to a solution of 34 mg of 2-(3-{(3,4-dimethoxyphenyl)-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]methyl}-5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl)benzoic acid in 6 ml of a methanol:THF=2:1 mixed solvent, the mixture was stirred at room temperature for 20 hours. Next, 0.1 ml of 5N hydrochloric acid was added to the reaction mixture and the mixture was stirred at room temperature for 10 minutes, after which 10 ml of ethyl acetate and 5 ml of water were added and filtration was performed with celite. The aqueous layer was extracted with 10 ml of ethyl acetate, and the organic layers were combined and dried over anhydrous magnesium sulfate. The desiccating agent was filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by NAM silica gel column chromatography (methanol-dichloromethane) to give the title compound (25 mg) as a white solid.

reactant | sodium cyanotrihydroborate | 16.3 mg | [B-]C#N.[Na+]
reactant | acetic acid | 0.0074 ml | C(C)(=O)O | C2H4O2
reactant | 2-(3-{(3,4-dimethoxyphenyl)-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]methyl}-5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl)benzoic acid | 34 mg | COC=1C=C(C=CC1OC)C(C1=NN(C(N1)=O)C1=C(C(=O)O)C=CC=C1)=NC1=CC=C(C=C1)C1=NOC(=N1)C | C27H22N6O6
reactant | hydrochloric acid | 5N, 0.1 ml | Cl | ClH
solvent | methanol | 6 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
product | 2-(3-{(3,4-dimethoxyphenyl)-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]methyl}-5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl)benzoic acid | 25 mg | COC=1C=C(C=CC1OC)C(C1=NN(C(N1)=O)C1=C(C(=O)O)C=CC=C1)NC1=CC=C(C=C1)C1=NOC(=N1)C | C27H24N6O6
